US08198464B2
To a methanol (427.4 kg) solution of (1S)-2,3,4,6-tetra-O-acetyl-1,5-anhydro-1-[3-(1-benzothien-2-ylmethyl)-4-fluorophenyl]glucitol (76.9 kg) was added a water (230 liters) solution of sodium hydroxide (26.9 kg) at a temperature of 25° C. or lower, followed by stirring at 40.0 to 49.1° C. for 4 hours. Water (850 liters) was added to the reaction mixture, and 12.9 kg of 38% hydrochloric acid was added thereto at a temperature of 25° C. or lower. The mixture was heated to 60° C., followed by stirring at 20.2 to 25.0° C. for 9.5 hours. The separated-out crystals were collected by filtration, washed with tap water (80 liters), and vacuum-dried to obtain, as white crystals, (1S)-1,5-anhydro-1-C-[3-(1-benzothiophene-2-ylmethyl)-4-fluorophenyl]-D-glucitol [52.7 kg, yield: 97.0%, purity: 99% (HPLC)].

reactant | methanol | 427.4 kg | CO | CH4O
reactant | (1S)-2,3,4,6-tetra-O-acetyl-1,5-anhydro-1-[3-(1-benzothien-2-ylmethyl)-4-fluorophenyl]glucitol | 76.9 kg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)C1=CC(=C(C=C1)F)CC=1SC2=C(C1)C=CC=C2 | C29H29FO9S
reactant | sodium hydroxide | 26.9 kg | [OH-].[Na+]
reactant | hydrochloric acid | 12.9 kg | Cl | ClH
solvent | Water | 850 liters | O | H2O
solvent | water | 230 liters | O | H2O
product | (1S)-1,5-anhydro-1-C-[3-(1-benzothiophene-2-ylmethyl)-4-fluorophenyl]-D-glucitol | 52.7 kg, yield: 97.0% | S1C(=CC2=C1C=CC=C2)CC=2C=C(C=CC2F)[C@H]2[C@H](O)[C@@H](O)[C@H](O)[C@H](O2)CO | C21H21FO5S
